US07423050B2
1. 4-Fluoro-N-[6-(1-methyl-piperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide dihydrochloride
Stir a mixture of 2-Amino-6-(1-methylpiperidin-4-ylcarbonyl)pyridine (0.150 g), 4-fluorobenzoyl chloride (0.218 g), triethylamine (0.192 mL) and dichloromethane at room temperature for 4 hours. Add 1N aqueous NaOH to basify the reaction mixture. Extract the mixture with dichloromethane, dry the organic phase with anhydrous sodium sulfate, evaporate the solvent, and purify the residue by HPLC to provide the free base of the title compound. Re-dissolve the free base in diethyl ether and add excess 1 M HCl. Evaporate the solvent and dry the residue under vacuum to obtain 80 mg of the title compound. M.p. 75-80° C.; HRMS: 342.1605 (obs.) (Cal. 342.1618).

reactant | 2-Amino-6-(1-methylpiperidin-4-ylcarbonyl)pyridine | 0.150 g | NC1=NC(=CC=C1)C(=O)C1CCN(CC1)C | C12H17N3O
reactant | 4-fluorobenzoyl chloride | 0.218 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | triethylamine | 0.192 mL | C(C)N(CC)CC | C6H15N
reactant | NaOH | 1N | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-Fluoro-N-[6-(1-methyl-piperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide dihydrochloride | Cl.Cl.FC1=CC=C(C(=O)NC2=NC(=CC=C2)C(=O)C2CCN(CC2)C)C=C1 | InChI=1S/C19H20FN3O2.2ClH/c1-23-11-9-13(10-12-23)18(24)16-3-2-4-17(21-16)22-19(25)14-5-7-15(20)8-6-14;;/h2-8,13H,9-12H2,1H3,(H,21,22,25);2*1H
